US04540690
Chlorosulfonic acid was added dropwise during 7 min to a solution of N-(3-hydroxypropyl)-N-[2-(4-methoxyphenylmethylene)cyclohexyl]amine, 5 g (0.017 mole) in 325 ml of diethyl ether keeping the temperature at about 3° C. with cooling. The mixture was then stirred at this 3° C. temperature for 30 min and then at room temperature for 2 hr to ensure complete reaction. The resulting suspension was filtered and the solid washed with diethyl ether. The solid was added to a cold solution of 6.5 g of sodium hydroxide in 50 ml of water and the mixture was heated at 95° C. for 2 hr, then cooled in ice, saturated with solid sodium hydroxide and extracted with chloroform. The chloroform extract was dried with magnesium sulfate and evaporated. The residue was chromatographed on a Merck silica gel size C column using an 8% v/v methanol in chloroform solution containing 1% v/v ammonium hydroxide solution mixture as eluent. Elution of the residue loaded column with 560 ml of this mixture gave no material. The next 500 ml gave 0.41 g of (±)-(E)-1-[2-[(4-methoxyphenyl)methylene]cyclohexyl]azetidine as an oil. The NMR was consistent for this named product. A crystalline p-toluenesulfonate salt was prepared, mp 114°-115° C.

reactant | Chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | N-(3-hydroxypropyl)-N-[2-(4-methoxyphenylmethylene)cyclohexyl]amine | OCCCNC1C(CCCC1)=CC1=CC=C(C=C1)OC | C17H25NO2
solvent | diethyl ether | 325 ml | C(C)OCC | C4H10O
product | (±)-(E)-1-[2-[(4-methoxyphenyl)methylene]cyclohexyl]azetidine | 0.41 g | COC1=CC=C(C=C1)\C=C/1\C(CCCC1)N1CCC1 | C17H23NO
